US08048887B2
2-(4-Fluorophenyl)-N-methyl-5-(3-(3-phenyl-1,2,4-oxadiazol-5-yl)phenyl)benzofuran-3-carboxamide
Sodium methoxide (33 mg, 0.620 mmol) was added to a stirring slurry of methyl 3-(2-(4-fluorophenyl)-3-(methylcarbamoyl)benzofuran-5-yl)benzoate (50 mg, 0.124 mmol) and (Z)-N′-hydroxybenzimidamide (51 mg, 0.372 mmol) in EtOH (2.5 mL) at rt. The mixture was subjected to microwave irradiation for 5 min at 160° C. The mixture was concentrated and purified by preparative reverse phase HPLC on a C18 column using a suitably buffered H2O/CH3CN gradient, and concentrated to give the titled compound (8.7 mg, 14%). 1H NMR (400 MHz, DMSO-d6) δ ppm 8.49-8.56 (1H, m), 8.44-8.49 (1H, m), 8.19-8.25 (1H, m), 8.13-8.18 (2H, m), 8.07-8.12 (1H, m), 8.00-8.07 (2H, m), 7.98 (1H, s), 7.76-7.86 (3H, m), 7.59-7.68 (3H, m), 7.41 (2H, t, J=8.91 Hz), 2.88 (3H, d, J=4.77 Hz). LC-MS retention time: 1.94 min; m/z (MH+): 490. LC data was recorded on a Shimadzu LC-10AS liquid chromatograph equipped with a Waters XBridge 5u C18 4.6×50 mm column using a SPD-10AV UV-Vis detector at a detector wave length of 220 nM. The elution conditions employed a flow rate of 5 ml/min, a gradient of 100% solvent A/0% solvent B to 0% solvent A/100% solvent B, a gradient time of 2 min, a hold time of 1 min, and an analysis time of 3 min where solvent A was 5% acetonitrile/95% H2O/10 mM ammonium acetate and solvent B was 5% H2O/95% acetonitrile/10 mM ammonium acetate. MS data was determined using a MICROMASS® Platform for LC in electrospray mode. Additional HPLC method: Solvent A=5% CH3CN/95% H2O/0.1% TFA, Solvent B=95% CH3CN/5% H2O/0.1% TFA, Start % B=10, Final % B=100, Gradient time=15 min, Stop time=18 min, Flow Rate=1 ml/min. Column: Waters Sunfire C-18, 4.6×150 mm, 3.5 mm, Rt=17.39 min, purity=99%; Column: Waters XBridge phenyl column 4.6×150 mm, 3.5 mm, Rt=14.58 min, purity=98%.

reactant | Sodium methoxide | 0.620 mmol, 33 mg | C[O-].[Na+]
reactant | methyl 3-(2-(4-fluorophenyl)-3-(methylcarbamoyl)benzofuran-5-yl)benzoate | 0.124 mmol, 50 mg | FC1=CC=C(C=C1)C=1OC2=C(C1C(NC)=O)C=C(C=C2)C=2C=C(C(=O)OC)C=CC2 | C24H18FNO4
reactant | (Z)-N′-hydroxybenzimidamide | 0.372 mmol, 51 mg | O\N=C(\C1=CC=CC=C1)/N | C7H8N2O
solvent | EtOH | 2.5 mL | CCO | C2H6O
product | 2-(4-Fluorophenyl)-N-methyl-5-(3-(3-phenyl-1,2,4-oxadiazol-5-yl)phenyl)benzofuran-3-carboxamide | 8.7 mg, 14% | FC1=CC=C(C=C1)C=1OC2=C(C1C(=O)NC)C=C(C=C2)C2=CC(=CC=C2)C2=NC(=NO2)C2=CC=CC=C2 | C30H20FN3O3
